US04997836
In dichloromethane (18 ml) is dissolved 2,3-dimethoxy-6,7-dihydro-5H-benzocycloheptene-8-carbonyl chloride (1.44 g). The solution is added dropwise taking 5 minutes, while stirring at 0° C., to a mixture of methyl 1-(3,4,5-trimethoxybenzyl)piperazine-2carboxylate dihydrochloride (2.16 g), triethylamine (2.5 g) and dichloromethane (25 ml). The reaction mixture is stirred for one hour at room temperature, and then poured into ice-water, followed by extraction with dichloromethane. The organic layer is washed with water and dried, then the solvent is distilled off under reduced pressure. The residue is purified by means of a silica gel column chromatography (hexane:ethyl acetate:acetone =3:3:1) to afford methyl 4-(2 3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl) -1-(3,4,5-trimethoxybenzyl)piperazine -2- carboxylate, which is identical with the product obtained in Working Example 25, as a colorless oily product (2.2 g).

reactant | 2,3-dimethoxy-6,7-dihydro-5H-benzocycloheptene-8-carbonyl chloride | 1.44 g | COC=1C(=CC2=C(C=C(CCC2)C(=O)Cl)C1)OC | C14H15ClO3
reactant | methyl 1-(3,4,5-trimethoxybenzyl)piperazine-2carboxylate dihydrochloride | 2.16 g | Cl.Cl.COC=1C=C(CN2C(CNCC2)C(=O)OC)C=C(C1OC)OC
reactant | triethylamine | 2.5 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | methyl 4-(2 3-dimethoxy-6,7-dihydro-5H-benzocyclohepten-8-ylcarbonyl) -1-(3,4,5-trimethoxybenzyl)piperazine -2- carboxylate | COC=1C(=CC2=C(C=C(CCC2)C(=O)N2CC(N(CC2)CC2=CC(=C(C(=C2)OC)OC)OC)C(=O)OC)C1)OC | C30H38N2O8
